US05385829
Octanoyl-L-carnitine solutions, in 100 mM acetate buffer solution (pH 4.5-6.0), in 100 mM phosphate buffer solution (pH 6.5-8.0), in 100 mM tris-HCl buffer solution (pH 8.0-9.0) and in 100 mM glycine/NaOH buffer solution (pH 9.0-10.0) were prepared with a concentration of octanoyl-carnitine of 0.5 mM for each of the solutions. Each of these solutions was subjected to an enzymatic hydrolysis reaction at 37° C. for 10 hours and the amount of L-carnitine formed thereby was determined. The results of the analysis of L-carnitine are shown on the graph of FIG. 1, which shows the optimum pH at about 8.0, wherein high enzymatic activities above 90% were reached within a wide pH range from 6.5 to 9.5.

reactant | Octanoyl-L-carnitine | C(CCCCCCC)(=O)[C@](O)(C[N+](C)(C)C)CC([O-])=O | C15H29NO4
reactant | octanoyl-carnitine | CCCCCCCC(=O)OC(CC(=O)O)C[N+](C)(C)C.[Cl-]
solvent | acetate | 100 mM, pH 4.5-6.0 | C(C)(=O)[O-]
solvent | phosphate | 100 mM, pH 6.5-8.0 | P(=O)([O-])([O-])[O-]
solvent | glycine NaOH | 100 mM, pH 9.0-10.0 | NCC(=O)O.[OH-].[Na+]
product | L-carnitine | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
